US08026236B2
Acetyl chloride (0.012 ml) was added dropwise to a solution of 1-methyl-(6-(4-(2-(piperidin-4-yl)ethoxy)-3-(trifluoromethyl)phenyl)-1H-imidazo[4,5-c]pyridine-4-carbonitrile (25 mg) and diisopropylethylamine (0.051 ml) in THF (2 ml). The reaction mixture was stirred at room temperature for 18 hours. The product was then purified by acidic prep HPLC to give 6-(4-(2-(1-acetylpiperidine-4-yl)-ethoxy)-3-(trifluoromethyl)phenyl)-1-methyl-1H-imidazo[4,5-c]pyridine-4-carbonitrile (7.2 mg).

reactant | Acetyl chloride | 0.012 ml | C(C)(=O)Cl | C2H3ClO
reactant | 6-(4-(2-(piperidin-4-yl)ethoxy)-3-(trifluoromethyl)phenyl)-1H-imidazo[4,5-c]pyridine-4-carbonitrile | 25 mg | N1CCC(CC1)CCOC1=C(C=C(C=C1)C1=CC2=C(C(=N1)C#N)N=CN2)C(F)(F)F | C21H20F3N5O
reactant | diisopropylethylamine | 0.051 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | THF | 2 ml | C1CCOC1 | C4H8O
product | 6-(4-(2-(1-acetylpiperidine-4-yl)-ethoxy)-3-(trifluoromethyl)phenyl)-1-methyl-1H-imidazo[4,5-c]pyridine-4-carbonitrile | 7.2 mg | C(C)(=O)N1CCC(CC1)CCOC1=C(C=C(C=C1)C1=CC2=C(C(=N1)C#N)N=CN2C)C(F)(F)F | C24H24F3N5O2
